USRE029358
Preparation of 1,5-Bis(2-Naphthyl)- 1,4-pentadien-3-one Amidinohydrazone Hydrochloride
Utilizing the general procedure of Example 1, 6.9 grams of 1,5-bis(2-naphthyl)-1,4-pentadien-3-one, 2.5 grams of aminoguanidine hydrochloride, 5 drops of concentrated hydrochloric acid, and 250 ml. of ethanol, and employing a 16 hour reflux period, 6.4 g. of the above compound is obtained, melting at 232°-234° C.

reactant | 1,5-bis(2-naphthyl)-1,4-pentadien-3-one | 6.9 grams | C1=C(C=CC2=CC=CC=C12)C=CC(C=CC1=CC2=CC=CC=C2C=C1)=O | C25H18O
reactant | aminoguanidine hydrochloride | 2.5 grams | C(=N)(N)NN.Cl
catalyst | hydrochloric acid | 5 drops | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1,5-Bis(2-Naphthyl)- 1,4-pentadien-3-one Amidinohydrazone Hydrochloride | Cl.C(N)(=N)NN=C(C=CC1=CC2=CC=CC=C2C=C1)C=CC1=CC2=CC=CC=C2C=C1 | InChI=1S/C26H22N4.ClH/c27-26(28)30-29-25(15-11-19-9-13-21-5-1-3-7-23(21)17-19)16-12-20-10-14-22-6-2-4-8-24(22)18-20;/h1-18H,(H4,27,28,30);1H
